US04472381
Dibenzylphosphoryl-L-alanyl-L-proline (1.2 g, 2.5 m mole) as shown in the Japanese patent first publication No. 104863/1981, HOBt (338 mg, 2.5 m mole) and L-serine methylester hydrochloride (467 mg, 3 m mole) were suspended in DMF (10 ml), and WSC (0.5 ml) was added dropwise thereto while cooling to -15° C. and stirring. The reaction was carried out for 3 hours under cooling and next overnight at a room temperature. Ethyl acetate (100 ml) was added to the reaction solution, washed 1N hydrochloric acid and water in order, and dried with anhydrous sodium sulfate. The thus obtained solution was distilled under reduced pressure to give an oily dibenzylphosphoryl-L-alanyl-L-prolyl-L-serine methyl ester (1.3 g). The oily product gave a single spot with Rf 0.46 by thin layer chromatography (developing solvent; chloroform:methanol:acetic acid=95:5:3, colour forming method: spraying of 25% hydrobromic acid and 0.1% ninhydrine and heating). The oily material was dissolved in a mixture (20 ml) of acetone and methanol (1:1) and 1N sodium hydroxide (5 ml) was added thereto under cooling with ice. The mixture was stirred for 1.5 hours at room temperature and neutralized with 1N hydrochloric acid. The solution was distilled under reduced pressure to eliminate the organic solvent, and the residue was dissolved in ethyl acetate, washed with 1N hydrochloric acid and water in order, and dried with anhydrous sodium sulfate. The thus obtained solution was distilled under reduced pressure to give oily dibenzylphosphoryl-L-alanyl-L-prolyl-L-serine (1.2 g). The oily material gave a single spot with Rf 0.18 by thin layer chromatography (developing solvent: chloroform:methanol:acetic acid=95:5:3, colour forming method; spraying of 25% hydrobromic acid and 0.1% ninhydrine, and heating).

reactant | Dibenzylphosphoryl-L-alanyl-L-proline | 1.2 g | C(C1=CC=CC=C1)P(=O)(CC1=CC=CC=C1)N[C@@H](C)C(=O)N1[C@H](C(=O)O)CCC1 | C22H27N2O4P
reactant | HOBt | 338 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | L-serine methylester hydrochloride | 467 mg | Cl.COC([C@@H](N)CO)=O
reactant | WSC | 0.5 ml | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | Ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | dibenzylphosphoryl-L-alanyl-L-prolyl-L-serine methyl ester | 1.3 g | COC([C@@H](NC([C@H]1N(CCC1)C([C@@H](NP(=O)(CC1=CC=CC=C1)CC1=CC=CC=C1)C)=O)=O)CO)=O | C26H34N3O6P
